US03962451
A mixture of 19.5 g (0.048 mole) of 9-ethyl-3,6-bis (4-chlorobutryl)carbazole, 34.0 g (0.4 mole) of piperidine, 2.0 g of potassium iodide and 250 ml of p-dioxane is heated with stirring at the reflux temperature for a period of 68 hours and filtered while hot. Upon cooling, the mixture is diluted with 500 ml of water, and the resulting semi-solid which forms is dissolved in ether. The ether solution is washed repeatedly with water, dried over magnesium sulfate and treated with an ethereal hydrochloric acid solution resulting in the formation of 9-ethyl-3,6-bis(4-piperidinobutyryl)carbazole dihydrochloride hemihydrate, which is recrystallized from methanol-ethyl acetate solution to yield a product having a m.p. 138°-42°C; λmaxEtOH 258; and E1cm1% 699.

reactant | 9-ethyl-3,6-bis (4-chlorobutryl)carbazole | 0.048 mole, 19.5 g | C(C)N1C2=CC=C(C=C2C=2C=C(C=CC12)C(CCCCl)=O)C(CCCCl)=O | C22H23Cl2NO2
reactant | piperidine | 0.4 mole, 34.0 g | N1CCCCC1 | C5H11N
reactant | potassium iodide | 2.0 g | [I-].[K+]
solvent | p-dioxane | 250 ml | O1CCOCC1 | C4H8O2
product | 9-ethyl-3,6-bis(4-piperidinobutyryl)carbazole dihydrochloride hemihydrate | O.Cl.Cl.C(C)N1C2=CC=C(C=C2C=2C=C(C=CC12)C(CCCN1CCCCC1)=O)C(CCCN1CCCCC1)=O.C(C)N1C2=CC=C(C=C2C=2C=C(C=CC12)C(CCCN1CCCCC1)=O)C(CCCN1CCCCC1)=O.Cl.Cl | InChI=1S/2C32H43N3O2.4ClH.H2O/c2*1-2-35-29-15-13-25(31(36)11-9-21-33-17-5-3-6-18-33)23-27(29)28-24-26(14-16-30(28)35)32(37)12-10-22-34-19-7-4-8-20-34;;;;;/h2*13-16,23-24H,2-12,17-22H2,1H3;4*1H;1H2
